US05883102
(a) 3-Chloro-2,6-difluorobenzaldehyde
n-Butyllithium (1.43M in hexane, 20.2 mmol, 14.1 ml) was added dropwise at 0° C. to a solution of diisopropylamine (2.91 ml, 22.2 mmol) in THF (80 ml). After 30 min. at 0° C., the solution was cooled to -78° C. and 1-chloro-2,4-difluorobenzene (3 g, 20.2 mmol) in THF (10 ml) added dropwise. After 30 min., 4-formylmorpholine (4.1 ml) was added and the mixture warmed to room temperature over 1 h, diluted with 1N HCl, extracted twice with ethyl acetate, the extracts washed with brine, dried over sodium sulphate and evaporated to give a mobile yellow oil (2.2 g), MS (+EI) 178/177/176/175 (M+), 1H NMR (CDCl3) 10.34 (1H, s), 7.66-7.60 (1H, m), 7.00 (1H, dt, J6.9 Hz, 1.2 Hz).

reactant | n-Butyllithium | 20.2 mmol, 1.43M, 14.1 ml | C(CCC)[Li]
reactant | diisopropylamine | 22.2 mmol, 2.91 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-chloro-2,4-difluorobenzene | 20.2 mmol, 3 g | ClC1=C(C=C(C=C1)F)F | C6H3ClF2
reactant | 4-formylmorpholine | 4.1 ml | C(=O)N1CCOCC1 | C5H9NO2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | HCl | 1N | Cl | ClH
product | 3-Chloro-2,6-difluorobenzaldehyde | 2.2 g | ClC=1C(=C(C=O)C(=CC1)F)F | C7H3ClF2O
